US06855719B1
2,4-Dichloro-1-(2-methoxyethylsulphamoyl)benzene
2,4-Dichlorobenzenesulphonyl chloride (500 mg 2.1 mmol) and 2-methoxyethylamine (230 mg, 3.1 mmol) in n-butanol (10 ml) was heated at reflux for one hour. The volatiles were removed by evaporation and residue purified by chromatography eluting with hexane/ethyl acetate (50:50) to give the title compound. NMR: 3.04 (q, 21), 3.08 (s, 3H), 3.22 (t, 2H), 7.60 (dd, 31), 7.82 (d, 1H), 7.92 (d, 1H), 8.0 (s, 2H); m/z: 282 [M−H]−.

reactant | 2,4-Dichlorobenzenesulphonyl chloride | 2.1 mmol, 500 mg | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 2-methoxyethylamine | 3.1 mmol, 230 mg | COCCN | C3H9NO
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | 2,4-Dichloro-1-(2-methoxyethylsulphamoyl)benzene | ClC1=C(C=CC(=C1)Cl)S(NCCOC)(=O)=O | C9H11Cl2NO3S
